US09447106B2
To a solution of 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile (80 g, 290 mmol) in ethanol (200 mL) was added hydrazine hydrate (20 mL). The mixture was stirred at RT for 16 hr then was concentrated to give the crude product and washed with MeOH (30 mL) to afford 55 g (68.8%) of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile as a off-white solid. 1H NMR (DMSO-d6) δ 12.11 (br s, 1H), 7.80 (d, J=8.8 Hz, 2H), 7.46-7.39 (m, 2H), 7.18 (t, J=7.6 Hz, 1H), 7.12-7.04 (m, 4H), 6.43 (br s, 2H).

reactant | 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile | 290 mmol, 80 g | COC(=C(C#N)C#N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C17H12N2O2
reactant | hydrazine hydrate | 20 mL | O.NN
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 55 g, 68.8% | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
